US05792779
Step F: Ethyl-(2-t-Butoxycarbonylaminomethyl-4-Chlorophenoxy)-Acetamide
EDC Hydrochloride (249 mg, 1.3 mmol) was added to a stirred mixture of 2-t-butoxycarbonylaminomethyl-4-chlorophenoxyacetic acid (316 mg, 1.0 mmol), HOBT (176 mg, 1.3 mmol), ethylamine hydrochloride (106 mg, 1.3 mmol) and N-methylmorpholine (0.396 ml, 3.6 mmol) in DMF (4 ml) and the mixture was stirred for 16 h. The reaction was partitioned between ethylacetate and 5% KHSO4 solution and the organic layer was washed with 5% KHSO4 solution, water, NaHCO3 solution and brine, dried (Na2SO4) and evaporated in vacuo to a solid (333 mg) which was used for the next step.

reactant | EDC Hydrochloride | 1.3 mmol, 249 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-t-butoxycarbonylaminomethyl-4-chlorophenoxyacetic acid | 1.0 mmol, 316 mg | C(C)(C)(C)OC(=O)NCC1=C(OCC(=O)O)C=CC(=C1)Cl | C14H18ClNO5
reactant | HOBT | 1.3 mmol, 176 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethylamine hydrochloride | 1.3 mmol, 106 mg | Cl.C(C)N
reactant | N-methylmorpholine | 3.6 mmol, 0.396 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | Ethyl-(2-t-Butoxycarbonylaminomethyl-4-Chlorophenoxy)-Acetamide | C(C)C(C(=O)N)OC1=C(C=C(C=C1)Cl)CNC(=O)OC(C)(C)C | C16H23ClN2O4
